US07750163B2
4.3 2-{(1E,3E,5E,7E)-7-[5-(Carboxymethyl)-3-methyl-1,3-bis(4-sulphobutyl)-1,3-dihydro-2H-indol-2-ylidene]hepta-1,3,5-trienyl}-1-ethyl-3-methyl-3-(4-sulphobutyl)-3H-indolium-5-sulphonate
5-(Carboxymethyl)-2,3-dimethyl-1,3-bis(4-sulphobutyl)-3H-indolium (640 mg) and N-[5-(phenylamino)-2,4-penta-dienylidene) aniline monohydrochloride (125 mg) were heated together in a mixture of acetic acid (5 ml), acetic anhydride (5 ml) and triethylamine (0.5 ml) at 120° C. for 40 mins. To the reaction mixture was then added 1-ethyl-2,3-dimethyl-3-(4-sulfobutyl)-3H-indolium-5-sulfonate salt (825 mg (30% purity) and pyridine (5 ml), the reaction mixture was heated for a further 40 mins at 120° C. On cooling the dark green reaction mixture was poured into an excess of ethyl acetate (500 ml) and the resultant solid filtered off, washed with ethyl acetate and dried. The product (950 mg) was purified as required using HPLC (Vydac protein & peptide C18 (250 mm×25 mm); flow rate; 10 ml/min; gradient of 15 to 30% B over 30 mins; eluant A=0.1% TFA in water and eluant B=0.1% TFA in acetonitrile). Fractions containing the desired product were pooled and the solvent removed under reduced pressure. The product was obtained as a dark green solid (11.7 mg from 150 mg crude material).

reactant | 5-(Carboxymethyl)-2,3-dimethyl-1,3-bis(4-sulphobutyl)-3H-indolium | 640 mg | C(=O)(O)CC=1C=C2C(C(=[N+](C2=CC1)CCCCS(=O)(=O)O)C)(CCCCS(=O)(=O)O)C
reactant | N-[5-(phenylamino)-2,4-penta-dienylidene) aniline monohydrochloride | 125 mg | Cl.C1(=CC=CC=C1)NC=CC=CC=NC1=CC=CC=C1
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-ethyl-2,3-dimethyl-3-(4-sulfobutyl)-3H-indolium-5-sulfonate | C(C)[N+]1=C(C(C2=CC(=CC=C12)S(=O)(=O)[O-])(CCCCS(=O)(=O)O)C)C | C16H23NO6S2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | 2-{(1E,3E,5E,7E)-7-[5-(Carboxymethyl)-3-methyl-1,3-bis(4-sulphobutyl)-1,3-dihydro-2H-indol-2-ylidene]hepta-1,3,5-trienyl}-1-ethyl-3-methyl-3-(4-sulphobutyl)-3H-indolium-5-sulphonate | 150 mg | C(=O)(O)CC=1C=C2C(/C(/N(C2=CC1)CCCCS(=O)(=O)O)=C\C=C\C=C\C=C\C1=[N+](C2=CC=C(C=C2C1(CCCCS(=O)(=O)O)C)S(=O)(=O)[O-])CC)(CCCCS(=O)(=O)O)C | C41H54N2O14S4
